US05075299
6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-hydroxy-4-pyridone
To a solution of 4 g of 6-hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-4-pyrone in 50 ml of pyridine was added 5 g of hydroxylamine hydrochloride at room temperature. The mixture was stirred at 70° to 75° C. for 7 hours. After the reaction liquid was concentrated under reduced pressure, the residue was dissolved in 200 ml of chloroform and washed in succession with water, 5% cold hydrochloric acid and saturated aqueous sodium hydrogencarbonate solution. After drying over anhydrous magnesium sulfate, the chloroform layer was dried and concentrated under reduced pressure. The concentrate was separated and purified by flash column chromatography (eluting solution; chloroform: methanol=20:1) using Wako Gel C-300 (100 g) to give 350 mg of the title compound.

reactant | 6-hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-4-pyrone | 4 g | OCC1=C(C(C=C(O1)C)=O)OCC1=CC=C(C=C1)OC | C15H16O5
reactant | hydroxylamine hydrochloride | 5 g | Cl.NO
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-Hydroxymethyl-5-p-methoxybenzyloxy-2-methyl-1-hydroxy-4-pyridone | 350 mg | OCC1=C(C(C=C(N1O)C)=O)OCC1=CC=C(C=C1)OC | C15H17NO5
